US09388196B2
Step 1: 2-(3-azabicyclo[3.1.0]hexan-3-ylmethyl)-4-bromothiazole
A solution of methyl 4-bromo-2-(bromomethyl)thiazole (prepared according to the procedure reported in US 2010/298388, 0.60 g, 2.33 mmol) in DMF (5 ml) was added to a potassium carbonate (0.48 g, 3.50 mmol) and 3-azabicyclo[3.1.0]hexane hydrochloride (0.33 g, 2.80 mmol) at 0° C. under stirring. The reaction mixture was stirred at room temperature for 30 minutes. The progress of the reaction was monitored by TLC. The reaction mixture was quenched with water (5 ml). The mixture was then extracted with ethyl acetate (2×25 ml). The combined organic layer was dried over anhydrous Na2SO4. The solvent was evaporated from the dried organic layer under reduced pressure to obtain a crude product; the crud product was further purified by flash column chromatography using 20% ethyl acetate in hexanes as an eluent to obtain the title compound (0.47 g, 78%). MS: m/z 261 (M+1).

reactant | methyl 4-bromo-2-(bromomethyl)thiazole | CC1=C(N=C(S1)CBr)Br | C5H5Br2NS
reactant | potassium carbonate | 3.50 mmol, 0.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-azabicyclo[3.1.0]hexane hydrochloride | 2.80 mmol, 0.33 g | Cl.C12CNCC2C1
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(3-azabicyclo[3.1.0]hexan-3-ylmethyl)-4-bromothiazole | 0.47 g, 78% | C12CN(CC2C1)CC=1SC=C(N1)Br | C9H11BrN2S
